US09079910B2
17 mg (0.13 mmol) of potassium carbonate were added to a solution of 13 mg (0.035 mmol) of tert-butyl 5-(1-benzyl-1H-1,2,3-triazol-4-yl)pyrrolo[2,3-d]pyrimidine-7-carboxylate in 10 ml of methanol, and the mixture was stirred at room temperature for 18 hours. The reaction mixture was evaporated, and the residue was purified by preparative HPLC, giving 5-(1-benzyl-1H-1,2,3-triazol-4-yl)-7H-pyrrolo[2,3-d]pyrimidine as colourless solid; HPLC/MS: 1.48 min, [M+H] 277;

reactant | potassium carbonate | 0.13 mmol, 17 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 5-(1-benzyl-1H-1,2,3-triazol-4-yl)pyrrolo[2,3-d]pyrimidine-7-carboxylate | 0.035 mmol, 13 mg | C(C1=CC=CC=C1)N1N=NC(=C1)C1=CN(C=2N=CN=CC21)C(=O)OC(C)(C)C | C20H20N6O2
solvent | methanol | 10 ml | CO | CH4O
product | 5-(1-benzyl-1H-1,2,3-triazol-4-yl)-7H-pyrrolo[2,3-d]pyrimidine | C(C1=CC=CC=C1)N1N=NC(=C1)C1=CNC=2N=CN=CC21 | C15H12N6
